US06107329
5-Chloro-1H-indole-2-carboxylic acid ((1S)-benzyl-2-oxo-2-thiomorpholin4-yl-ethyl)-amide
(S)-2-Amino-3-phenyl-1-thiomorpholin4-yl-propan-1-one hydrochloride (2.6 mmol) and 5-chloro-1H-indole-2-carboxylic acid (2.6 mmol) were coupled according to Procedure A (0-25° C. reaction temperature, washed with acid first, then base). The crude product was then triturated with 1:1 ether-hexanes and dried. Yield 1.03 g, 94%; HPLC (60/40) 8.74 minutes (99%); PBMS 428/430 (MH+, 100%);

reactant | (S)-2-Amino-3-phenyl-1-thiomorpholin4-yl-propan-1-one hydrochloride | 2.6 mmol | Cl.N[C@H](C(=O)N1CCSCC1)CC1=CC=CC=C1
reactant | 5-chloro-1H-indole-2-carboxylic acid | 2.6 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
product | 5-Chloro-1H-indole-2-carboxylic acid ((1S)-benzyl-2-oxo-2-thiomorpholin4-yl-ethyl)-amide | C(C1=CC=CC=C1)[C@@H](C(N1CCSCC1)=O)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C22H22ClN3O2S
